US04929615
1,2-Dihydro-7-methylbenzo[b]pyrazino[1,2-d]pyrrolo[3,2,1-jk][1,4]benzodiazepin-8,9(6H)-dione
N-methyl-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine-6-methanamine (2.5 g), and diethyl oxalate (1.6 g), were combined and heated to 140° C. over a period of 45 min, then to 180° C. over 15 min. The reaction mixture was maintained at this temperature for 1 hr. The reaction mixture was cooled, dissolved in a small volume of dichloromethane, placed on a column of silica gel and eluted with 2.5% methanol-dichloromethane to yield 1.4 g, (46.7%) of product.

reactant | N-methyl-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine-6-methanamine | 2.5 g | CNCC1NC2=C(N3C4=C1C=CC=C4CC3)C=CC=C2 | C17H19N3
reactant | diethyl oxalate | 1.6 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | dichloromethane | ClCCl | CH2Cl2
product | 1,2-Dihydro-7-methylbenzo[b]pyrazino[1,2-d]pyrrolo[3,2,1-jk][1,4]benzodiazepin-8,9(6H)-dione | 46.7% | CC=1C(C(C=C2C1N1C=3C(=C4N2C=CN=C4)CCCC3C=C1)=O)=O | C19H15N3O2
